* D:\General Data\Files\Projects\1) Major Projects\SOAR PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Zener npn level shift umbilical gate drive circuit.asc
* Generated by LTspice 24.1.4 for Windows.
D1 N005 N002 BZX84C8V2L
V1 N001 0 48
R1 N002 N001 10000
Q1 N005 N006 0 0 NPN
V2 N007 0 PULSE(0 5 0.2 10u 10u 0.2)
R2 N007 N006 1000
C2 N004 0 100n
R8 N004 0 10000
R9 N006 0 10000
D3 N002 N003 D
R3 N004 N003 100
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1
.backanno
.end
