* D:\General Data\Files\Projects\1) Major Projects\SOAR PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Zener npn level shift umbilical gate drive circuit.asc
* Generated by LTspice 24.1.4 for Windows.
D1 N004 N002 BZX84C8V2L
V1 N001 0 48
R1 N002 N001 10000
Q1 N004 N005 0 0 NPN
V2 N006 0 PULSE(0 5 0.2 10u 10u 0.2)
R2 N006 N005 1000
C2 N003 0 25n
R8 N003 0 10000
R3 N003 N002 1000
R4 N005 0 10000
R5 N008 UMBILICAL_GATE 2000
C1 UMBILICAL_GATE 0 1n
D2 N009 N008 BZX84C8V2L
Q2 N009 N011 0 0 NPN
R9 N010 N011 1000
R10 N011 0 10000
V3 N007 0 48
V4 N010 0 PULSE(0 5 0.2 10u 10u 0.2)
R7 N008 N007 5000
R6 N007 UMBILICAL_GATE 10e5
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1
.backanno
.end
